US09388189B2
b) 1-(Methylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine
4-Bromo-1-(methylsulfonyl)-1H-pyrrolo[2,3-b]pyridine (200 mg, 0.73 mmol) was treated with bis(pinacolato)diboron (275 mg, 1.08 mmol), potassium acetate (220 mg, 2.2 mmol) and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (20 mg, 0.034 mmol) in dioxane (7 ml) according to the method described in Preparation 174a. The crude was purified by reverse phase using SP1® Purification System to obtain 100 mg (42% yield) of the title compound as a white solid. Purity 98%.

reactant | 4-Bromo-1-(methylsulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.73 mmol, 200 mg | BrC1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C | C8H7BrN2O2S
reactant | bis(pinacolato)diboron | 1.08 mmol, 275 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.2 mmol, 220 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 7 ml | O1CCOCC1 | C4H8O2
product | 1-(Methylsulfonyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 100 mg, 42% yield | CS(=O)(=O)N1C=CC=2C1=NC=CC2B2OC(C(O2)(C)C)(C)C | C14H19BN2O4S
